US04921632
3.30 g of 4-iodo-4'-biphenylcarboxylic acid and 10 ml of thionyl chloride were heated for 6 hours under reflux, followed by distilling off excess thionyl chloride to obtain 4-iodo-4'-biphenylcarboxylic acid chloride. This was used without purification in the following step, as a solution in toluene. Into 1.80 g of 1-trifluoromethylheptanol dissolved in 20 ml of pyridine and cooled with ice bath, was added drop-wise over 30 minutes the toluene solution of the above acid chloride, followed by stirring for 5 hours under heating with 90° C. water bath. After cooling, the resulting solution was acidified with addition of 6N hydrochloric acid and ice, and the organic layer was separated and washed with water, then with saturated aqueous solution of sodium bicarbonate, and again with water, followed by distilling off toluene under reduced pressure. Hexane-soluble matter of the resulting crude product was purified with silica gel column to obtain 2.85 g of oily optically active 1-trifluoromethylheptyl ester of 4-iodo-4'-biphenylcarboxylic acid.

reactant | 4-iodo-4'-biphenylcarboxylic acid | 3.30 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9IO2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-iodo-4'-biphenylcarboxylic acid chloride | IC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C13H8ClIO
